US09169261B2
To a solution of (S)-tert-butyl pyrrolidin-3-ylcarbamate (80.2 g, 0.43 mol, 1.1 eq) in 75 mL of diisopropylamine and 34 mL of NMP was added portionwise 8-chloroimidazo[1,2-a]pyrazine (60 g, 0.39 mol, 1 eq). The reaction mixture was heated at 100° C. for 4 h and was then diluted with 1.2 L of ethyl acetate. The organic layer was washed with H2O and brine, dried with Na2SO4 and concentrated to give (S)-tert-butyl (1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)carbamate (111.7 g, 0.37 mol, 94%).

reactant | (S)-tert-butyl pyrrolidin-3-ylcarbamate | 0.43 mol, 80.2 g, 1.1 eq | N1C[C@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | 8-chloroimidazo[1,2-a]pyrazine | 0.39 mol, 60 g, 1 eq | ClC=1C=2N(C=CN1)C=CN2 | C6H4ClN3
solvent | diisopropylamine | 75 mL | C(C)(C)NC(C)C | C6H15N
solvent | NMP | 34 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | 1.2 L | C(C)(=O)OCC | C4H8O2
product | (S)-tert-butyl (1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)carbamate | 0.37 mol, 111.7 g, 94% | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)NC(OC(C)(C)C)=O | C15H21N5O2
